US07202238B2
To a solution of (3,5-bis(trifluoromethyl)phenyl)-[(3R,6R,8aR)-6-chloromethyl-3-(1H-indol-3-ylmethyl)-hexahydropyrrolo[1,2-a]pyrazin-2-yl]-methanone (1.06 g) in dimethylformamide (15 mL) was added morpholine (5 mL). The resulting mixture was heated at 120° C. for 6 hours. After cooling to room temperature, ethyl acetate and 5% aqueous sodiumbicarbonate were added and the layers were separated. The organic layer was dried and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, MTBE/MeOH/NH4OH 95:4.5:0.5) to afford 3,5-bis(trifluoromethyl)phenyl-[(3R,6R,8aR)-3-(1H-indol-3-ylmethyl)-6-(morpholin-4-ylmethyl)-hexahydropyrrolo[1,2-a]pyrazin-2-yl]-methanone (407 mg). Rf 0.46 (MTBE/MeOH/NH4OH 95:4.5:0.5) (compound 2).

reactant | (3,5-bis(trifluoromethyl)phenyl)-[(3R,6R,8aR)-6-chloromethyl-3-(1H-indol-3-ylmethyl)-hexahydropyrrolo[1,2-a]pyrazin-2-yl]-methanone | 1.06 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@@H]2N(C[C@H]1CC1=CNC3=CC=CC=C13)[C@H](CC2)CCl)(F)F | C26H24ClF6N3O
reactant | morpholine | 5 mL | N1CCOCC1 | C4H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodiumbicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 3,5-bis(trifluoromethyl)phenyl-[(3R,6R,8aR)-3-(1H-indol-3-ylmethyl)-6-(morpholin-4-ylmethyl)-hexahydropyrrolo[1,2-a]pyrazin-2-yl]-methanone | 407 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@@H]2N(C[C@H]1CC1=CNC3=CC=CC=C13)[C@H](CC2)CN2CCOCC2)(F)F | C30H32F6N4O2
